US07238725B2
N4-(3,5dichloro-4pyridyl)-8-chloro-9-(4-Fluorobenzyl)-1-methoxy-9H-4-carbazole carboxamide
To a solution of 8-chloro-9-(4-Fluorobenzyl)-1-methoxy-9H-4-carbazole carboxylic acid (130 mg, 0.327 mmoles) in 10 mL dry chloroform, thionyl chloride (0.071 mL, 0.981 mmoles) was added followed by a drop of DMF. The reaction mixture was stirred for 1 hr at 25° C. under nitrogen atmosphere. To the reaction mixture, 4-nitrophenol (45.5 mg, 0.3272 mmoles) was added and the reaction mixture was stirred for 2 hrs. The reaction mixture was quenched in ice cold water (50 mL) and extracted with ethyl acetate (2×25 ml). Ethyl acetate layer was washed with sodium bicarbonate solution (2×25 mL), 1N HCl (2×25 mL) and with brine, dried over sodium sulphate and concentrated to give 150 mg of the title compound.

reactant | 8-chloro-9-(4-Fluorobenzyl)-1-methoxy-9H-4-carbazole carboxylic acid | 0.327 mmoles, 130 mg | ClC=1C=CC=C2C=3C(=CC=C(C3N(C12)CC1=CC=C(C=C1)F)OC)C(=O)O | C21H15ClFNO3
reactant | thionyl chloride | 0.981 mmoles, 0.071 mL | S(=O)(Cl)Cl | Cl2OS
reactant | DMF | CN(C)C=O | C3H7NO
reactant | 4-nitrophenol | 0.3272 mmoles, 45.5 mg | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | N4-(3,5dichloro-4pyridyl)-8-chloro-9-(4-Fluorobenzyl)-1-methoxy-9H-4-carbazole carboxamide | 150 mg | ClC=1C=NC=C(C1NC(=O)C1=CC=C(C=2N(C3=C(C=CC=C3C12)Cl)CC1=CC=C(C=C1)F)OC)Cl | C26H17Cl3FN3O2
